US06248900B1
0.95 g (5.00 mmol) of methyl N′-dimethoxymethylenehydrazinecarboxylate (85% pure) was admixed with 3.57 g of a 44% strength solution of methylamine (50 mmol) in methanol, and the mixture was stirred at room temperature for 3 days. Work-up and removal of the solvent gave 0.85 g (76%) of methyl N′-(methoxymethylaminomethylene)hydrazinecarboxylate in the form of an oil.

reactant | methyl N′-dimethoxymethylenehydrazinecarboxylate | 5.00 mmol, 0.95 g | COC(=NNC(=O)OC)OC | C5H10N2O4
reactant | methylamine | 50 mmol | CN | CH5N
reactant | methanol | CO | CH4O
product | methyl N′-(methoxymethylaminomethylene)hydrazinecarboxylate | 0.85 g, 76% | COCNC=NNC(=O)OC | C5H11N3O3
